US09403813B2
5-Chloro-4-methyl-2-(2H-1,2,3-triazol-2-yl)benzoic acid (A-1-15)
Cs2CO3 (742 mg, 2.28 mmol) was added portionwise to a rt solution of 2-bromo-5-chloro-4-methyl-benzoic acid methyl ester (300 mg, 1.14 mmol) in DMF (3 mL) followed by 1H-1,2,3-triazole (0.1 mL, 1.71 mmol), Cu(I)I (13 mg, 0.068 mmol) and DMCDA (40 uL, 0.23 mmol). The resulting suspension was stirred at 120° C. for 4 h. The rxn mixture was quenched with 2M aq. HCl and extracted with EtOAc (3×). The combined org. layers were dried (Na2SO4), filtered and evaporated in vacuo to obtain the crude product that was purified by prep. HPLC (method C) to give the title compound A-1-15 as a pale yellow solid. LC-MS A: tR=0.72 min; [M(35Cl)+H]+=238.01.

reactant | Cs2CO3 | 2.28 mmol, 742 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromo-5-chloro-4-methyl-benzoic acid methyl ester | 1.14 mmol, 300 mg | COC(C1=C(C=C(C(=C1)Cl)C)Br)=O | C9H8BrClO2
reactant | 1H-1,2,3-triazole | 1.71 mmol, 0.1 mL | N1N=NC=C1 | C2H3N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-4-methyl-2-(2H-1,2,3-triazol-2-yl)benzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)N1N=CC=N1)C | C10H8ClN3O2
